US04061772
1. 2,3-bis(4-methoxyphenyl)-3-chloro-acrylaldoxime
30.2 g of 2,3-bis(4-methoxyphenyl)-3-chloro-acrylaldehyde (0.1 mol) were dissolved in 250 ml of pyridine and heated for half an hour on the steam bath together with 30 g of hydroxylamine hydrochloride. Then the solution was evaporated; the remaining solid substance was taken up with ethanol. The whole was boiled, suction-filtered and dried. The 2,3-bis(4-methoxyphenyl)-3-chloro-acrylaldoxime had a melting point of from 207° to 208° C (decomposition). The following compounds were prepared according to the same process:

reactant | 2,3-bis(4-methoxyphenyl)-3-chloro-acrylaldehyde | 0.1 mol, 30.2 g | COC1=CC=C(C=C1)C(C=O)=C(Cl)C1=CC=C(C=C1)OC | C17H15ClO3
reactant | hydroxylamine hydrochloride | 30 g | Cl.NO
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 2,3-bis(4-methoxyphenyl)-3-chloro-acrylaldoxime | COC1=CC=C(C=C1)C(C=NO)=C(Cl)C1=CC=C(C=C1)OC | C17H16ClNO3
